US05494908
3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-yl 1-methylethylcarbamate
To a stirred solution of 3-[[2-(4-morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-ol (2.2 g) and copper(I)chloride (0.1 g) in EtOAc (50 ml) was added 1-methylethylisocyanate (0.8 g). After 24 hours TLC (silica gel, 10% MeOH/DCM) showed no starting material. The reaction was filtered through neutral alumina eluting with EtOAc (3 l) and the filtrate was concentrated in vacuo. The white solid was flash chromatographed on silica gel eluting with 1% MeOH/DCM to yield 1.2 g of the product, m.p. 99°-100° C.

reactant | 3-[[2-(4-morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-ol | 2.2 g | N1(CCOCC1)CCN(C1=NOC2=C1C=CC(=C2)O)C | C14H19N3O3
reactant | 1-methylethylisocyanate | 0.8 g | CC(C)N=C=O | C4H7NO
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
catalyst | copper(I)chloride | 0.1 g | [Cu]Cl
product | 3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-yl 1-methylethylcarbamate | 1.2 g | CC(C)NC(OC1=CC2=C(C(=NO2)N(C)CCN2CCOCC2)C=C1)=O | C18H26N4O4
